* ANTENNA IDEAL - MODULE

VIN IN 0 AC 1

RANT IN N1 1k
L1 N1 N2 300u
C1 N2 0 150p

* OUTPUT node = N2
* connect next stage here

.ac dec 100 100k 2Meg
.end