* RF FRONT-END IDEAL MODULE

* INPUT from antenna
VIN IN 0 AC 1

RIN IN NB 1k

Q1 NC NB 0 QIDEAL

RC NC VCC 4.7k
RB NB VCC 100k

VCC VCC 0 DC 9

COUT NC OUT 47n

* OUTPUT = OUT

.model QIDEAL NPN (BF=1000 VAF=100)
.ac dec 100 100k 2Meg
.end