* RF FRONT-END REAL MODULE

* INPUT from antenna
VIN IN 0 AC 1

RIN IN NB 1k

Q1 NC NB 0 2N3904

RC NC VCC 4.7k
RE 0 NE 1k
RB NB VCC 100k

VCC VCC 0 DC 9

COUT NC OUT 47n

.model 2N3904 NPN (BF=200 IS=1e-14 VAF=100)
.ac dec 100 100k 2Meg
.end