* =========================
* IDEAL AM RADIO SYSTEM
* =========================

VIN IN 0 AC 1

* -------------------------
* ANTENNA (LC TANK)
* -------------------------
RANT IN N1 1k
L1 N1 N2 300u
C1 N2 0 150p

* OUTPUT = N2 (ANT_OUT)

* -------------------------
* RF AMPLIFIER (IDEAL BJT)
* -------------------------
Q1 N3 N2 0 QIDEAL
RC N3 VCC 4.7k
RB N2 VCC 100k
VCC VCC 0 DC 9

* OUTPUT = N3 (RF_OUT)

* -------------------------
* ENVELOPE DETECTOR
* -------------------------
D1 N3 N4 DIDEAL
C2 N4 0 1u
R2 N4 N5 10k

* OUTPUT = N5 (AUDIO_OUT)

* -------------------------
* AUDIO OUTPUT (IDEAL GAIN)
* -------------------------
E1 OUT 0 N5 0 20
RLOAD OUT 0 32

.model QIDEAL NPN (BF=1000 VAF=100)
.model DIDEAL D (IS=1e-12 N=1)

.ac dec 100 100k 2Meg
.end