* AM Radio Receiver Simulation (693 kHz BBC 5 Live) - FIXED
* --- Power Supply ---
Vcc VCC 0 9V

* --- RF Antenna / Signal Source ---
* B1 amplitude reduced to 1mV to prevent RF clipping
B1 IN 0 V=(1+0.8*sin(2*pi*1k*time))*sin(2*pi*693k*time)*1m
R_ant IN RF_IN 50 

* --- LC Tuning Tank ---
L1 RF_IN 0 220u
C_tune RF_IN 0 240p

* --- RF Amplifier Stage ---
C_rf_in RF_IN RF_B 10n
R_rf_b RF_C RF_B 100k
R_rf_c VCC RF_C 4.7k
R_rf_e RF_E 0 1k
C_rf_e RF_E 0 100n
Q1 RF_C RF_B RF_E 2N3904

* --- AM Detector Stage ---
D1 RF_C DET_OUT 1N4148
R_det DET_OUT 0 10k
C_det DET_OUT 0 10n

* --- Audio Amplifier Stage ---
C1 DET_OUT AF_B 10u
R_af_b AF_C AF_B 10k
R_af_c VCC AF_C 4.7k
R_af_e AF_E2 0 1k
C_af_e AF_E2 0 10u      ; Added to boost audio AC gain
Q2 AF_C AF_B AF_E2 2N3904
C2 AF_C OUT 10u
R_load OUT 0 10k        ; Changed to 10k to prevent impedance mismatch

* --- Transistor & Diode Models ---
.model 2N3904 NPN(IS=1E-14 VAF=100 BF=300 IKF=0.4 XTB=1.5 BR=4 CJC=4p CJE=8p RB=20 RC=0.1 RE=0.1 TR=250p TF=350p ITF=1 VTF=2 XTF=3 VCEO=40)
.model 1N4148 D(Is=2.52n Rs=.568 N=1.752 Cjo=4p M=.4 tt=20n Iave=200m Vpk=75)

* --- Simulation Setup ---
.tran 0 5m 0 100n
.end